US07645756B2
100 μl (2 mmol) of hydrazine was added to an ethanol solution (10 ml) of 300 mg of 1-chloro-4-(6-methoxypyridin-3-yl)-phthalazine, and the reaction liquid was stirred at 60° C. for 4 hours. The reaction liquid was concentrated under reduced pressure, and formic acid (10 ml) was added to the resulting solid and stirred at 120° C. for 30 minutes. This was concentrated under reduced pressure, aqueous saturated sodium hydrogencarbonate solution was added to the reaction liquid, extracted with chloroform, and the organic layer was washed with saturated saline water. This was dried with anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 141 mg (yield: 51%) of 6-(6-methoxypyridin-3-yl)-[1,2,4]triazolo[3,4-a]phthalazine as a brown solid.

reactant | hydrazine | 2 mmol, 100 μl | NN | H4N2
reactant | 1-chloro-4-(6-methoxypyridin-3-yl)-phthalazine | 300 mg | ClC1=NN=C(C2=CC=CC=C12)C=1C=NC(=CC1)OC | C14H10ClN3O
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(6-methoxypyridin-3-yl)-[1,2,4]triazolo[3,4-a]phthalazine | 141 mg, yield: 51% | COC1=CC=C(C=N1)C1=NN2C(C3=CC=CC=C13)=NN=C2 | C15H11N5O
